US04291056
(c) 2,2-dimethyl-3-(1-isobutenyl)-cyclopropanecarboxylic acid 3-(2,2-dichlorovinyloxy)-α-cyanobenzyl ester
To a solution of 9.8 g of 3-(2,2-dichlorovinyloxy)-mandelonitrile and 7.5 g of 2,2-dimethyl-3-(1-isobutenyl)-cyclopropanecarboxylic acid chloride in 100 cc toluene is added a solution of 3.5 g of pyridine in 200 ml toluene dropwise within 10 minutes. The resultant suspension is stirred for 15 hours at 20°-25° C., washed with dilute HCl and totally concentrated.

reactant | 3-(2,2-dichlorovinyloxy)-mandelonitrile | 9.8 g | ClC(=COC=1C=C(C(C#N)O)C=CC1)Cl | C10H7Cl2NO2
reactant | 2,2-dimethyl-3-(1-isobutenyl)-cyclopropanecarboxylic acid chloride | 7.5 g | CC1(C(C1C=C(C)C)C(=O)Cl)C | C10H15ClO
reactant | pyridine | 3.5 g | N1=CC=CC=C1 | C5H5N
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2,2-dimethyl-3-(1-isobutenyl)-cyclopropanecarboxylic acid 3-(2,2-dichlorovinyloxy)-α-cyanobenzyl ester | ClC(=COC=1C=C(C(C#N)OC(=O)C2C(C2C=C(C)C)(C)C)C=CC1)Cl | C20H21Cl2NO3
